US05210092
To a solution of 2-(4-methylphenyl)benzo[b]thiophene (896 mg) in freshly distillated tetrahydrofuran (15 ml) was added n-butyllithium (2.75 ml, 1.6 mol solution in n-hexane) through a syringe at -78° C. The solution was stirred at -78° C. for 10 minutes and then at ambient temperature for half an hour. To the deep red colored solution was added N,N-dimethylformamide (365 mg) at 5° C. The mixture was stirred at ambient temperature for one hour, quenched with aqueous saturated ammonium chloride solution, and extracted with diethyl ether. The organic layer was washed with aqueous saturated ammonium chloride solution, dried, and concentrated in vacuo to give a yellow residue, which was purified by flash column chromatography on silica gel eluted with 50% n-hexane in dichloromethane to yield 2-(4-methylphenyl)benzo[b]-thiophene-3-carbaldehyde (285 mg) as white crystals.

reactant | 2-(4-methylphenyl)benzo[b]thiophene | 896 mg | CC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C15H12S
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | n-butyllithium | 1.6 mol, 2.75 ml | C(CCC)[Li]
solvent | N,N-dimethylformamide | 365 mg | CN(C=O)C | C3H7NO
product | 2-(4-methylphenyl)benzo[b]-thiophene-3-carbaldehyde | 285 mg | CC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C=O | C16H12OS
